Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin / Naproxen / Sulfa (Sulfonamide Antibiotics) / Percocet 
/ ibuprofen / gabapentin
 
Attending: ___
 
Chief Complaint:
Possible first time seizure. 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ with hx of fibromyalgia, atypical
ductal hyperplasia on tamoxifen, chronic back pain, uterine
fibroids, SLE (unclear diagnosis per OMR) here with event
concerning for seizure. 

Pt is currently unable to provide a coherent history - the below
is obtained from multiple residents involved in her code. 
When reassessed later in the evening, she can produce coherent
speech - however, she speaks very slowly and softly, saying that
she was at ___ and they were asking her to do an exercise that 
she
was having trouble perform due to pain her leg. She then pauses
appearing somnolent and is unable to tell me exactly what
happened or what she remembers. 

She was undergoing ___ session today at around 1pm in ___ 2
when she had an episode reportedly some kind of convulsive
activity. Per Onc attending who saw the patient at that time, 
her
arms and legs were extended and stiff with rightward eye
deviation all lasting 1 min or less. Afterwards, she localized 
to
pain and had possible ?upbeating nystagmus. Code Blue was called
for unresponsiveness. When the Code Team arrived they found her
somnolent, not answering questions or following commands,
appearing "postictal". She was given 2mg IM Ativan at this time
for unclear reasons but seemed more responsive after the dose -
she would follow/track a finger on command and would nod to
questions without producing any speech. After several minutes,
she started arching back, pelvic thrusting, extending arms and
legs but was following commands throughout to track finger and
tried to open her mouth when asked as well. This lasted 2 min
total and resolved with 2mg IV Ativan. 

Finger stick in the ED was 52, pt was given dextrose. 

She is unable to respond to ROS accurately at the time of
interview. 

 
Past Medical History:
PAST MEDICAL HISTORY:  
Allergic Rhinitis
SLE (unclear diagnosis per OMR)                                  
             
Fibromyalgia                                                    
Herpes Simplex                                                  
Low Back Pain                                                   
Breast Reduction                                                
Breast Biopsy                                                   
Dysphonia                                                       
Atypical Ductal Hyperplasia 
Lupus
Arthritis
Patellofemoral Syndrome 

PAST SURGICAL HISTORY:
Breast reduction
Bunionectomy
Cyst removal from hand
Cesarean section  
 
Social History:
___
Family History:
Mother    ___      MULTIPLE MYELOMA                        
MGF       Deceased      MYOCARDIAL                              
                        INFARCTION                              
Father    Living        DIABETES ___                       
                        HYPERTENSION   
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals: ___, HR 80-100s, 116/89, RR 14, 100% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR
Abdomen: Initially guards. 
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
On initial assessment - MS as below. She moved arms and legs in 
a
nonfocal to noxious way but only cooperated partly with exam
given ___ strength in b/l delts, triceps, biceps, and IPs -
otherwise no effort with testing of distal muscles. Reacted to
noxious in all four. Symmetric hyperreflexia in 3 range
bilaterally. Toes down. No clonus. 

-Mental Status: 
Initial assessment: Somnolent but arousable to noxious stim.
Following most simple commands. Decreased speech output but able
to repeat well, tell me her name, oriented to "hospital", named
glasses and thumb, Describes cookie jar picture by saying 
"mother
is washing the dishes". 

On Repeat Eval: Mildly somnolent, arousable with verbal, light
tactile stimuli, oriented oriented x 3. Still unable to relate
history well as noted above in HPI. Inattentive, able to name 
___
backward until ___ then starts going forwards. Language is
technically fluent but slow with intact repetition and
comprehension. There were no paraphasic errors. Able to read
without difficulty. Speech was not dysarthric. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves: On repeat eval
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: On repeat eval. 
Normal bulk, tone throughout. No pronator drift bilaterally.
Mild asterixis. 
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   ___   5    4* 5     5     5   5
R  5    ___   ___   5    5  5     5     5   5
*Pain limited, unclear baseline. 

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was flexor bilaterally. No ankle clonus

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Able to stand with minimal assistance, walks several 
steps
slowly. Due to mental status, did not continue. Romberg absent. 
_
________________________________________________________________
Discharge physical exam is identical except for mental status: 
AAO x 3, able to name months of year backwards and serial 7's. 
Speaks slowly with pauses but this is reportedly her baseline 
per father. ___ eye contact, tenses mouth prior to 
initiating speech, also baseline per father. 

 
Pertinent Results:
___ 02:48PM BLOOD WBC-5.2 RBC-3.84* Hgb-10.5* Hct-33.2* 
MCV-87 MCH-27.3 MCHC-31.6* RDW-12.9 RDWSD-40.4 Plt ___
___ 02:48PM BLOOD Neuts-44.5 ___ Monos-10.2 
Eos-0.8* Baso-0.8 Im ___ AbsNeut-2.33 AbsLymp-2.27 
AbsMono-0.53 AbsEos-0.04 AbsBaso-0.04
___ 02:48PM BLOOD Plt ___
___ 02:48PM BLOOD ___ PTT-30.7 ___
___ 10:14AM BLOOD Glucose-101* UreaN-8 Creat-0.8 Na-136 
K-3.9 Cl-99 HCO3-25 AnGap-16
___ 02:48PM BLOOD ALT-10 AST-17 AlkPhos-50 TotBili-1.0
___ 02:48PM BLOOD Albumin-4.1 Calcium-9.0 Phos-4.1 Mg-1.9
___ 02:48PM BLOOD HCG-<5
___ 02:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:07PM BLOOD Lactate-1.3
 
Brief Hospital Course:
Ms. ___ was observed in the ED then admitted to the neurology 
service, where her mental status was noted to improve. Lab 
workup was unrevealing aside from hypoglycemia at time of event 
(52). Repeat glucose checks >70 throughout hospitalization. Her 
mental status was noted to improve and to return to baseline. 
She underwent routine EEG which was normal. She had MRI brain 
with contrast which revealed 4 mm linear area of enhancement 
within the left frontal lobe, with subtle 
possible FLAIR hyperintensity and magnetic susceptibility, 
possible artifact vs small lesion. The clinical significance of 
this finding was unclear.  For further workup, she had an LP for 
which routine studies were negative; ACE and MS profile pending. 
Arrangements were made for patient to follow up in Neuro urgent 
care at soonest available appointment.  At the time of 
discharge, she reported feeling at her baseline, denying back 
pain, nausea/vomiting or other neurologic symptoms.  

Transitional issues:
1) To follow up with Neuro-urgent care clinic after discharge
2)  Should follow up with Psychiatry  as an outpatient for 
anxiety (had several panic attacks during hospitalization) 
3) Follow up LP results when seen by Neurology in follow up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 1 mg PO TID:PRN prior to MRI 
2. ClonazePAM 1 mg PO QHS:PRN prior to exam 
3. DULoxetine 60 mg PO DAILY 
4. fluticasone 50 mcg/actuation nasal DAILY 
5. Hydrocortisone Cream 2.5% 1 Appl TP DAILY 
6. Lidocaine 5% Ointment 1 Appl TP BID 
7. Pregabalin 100 mg PO TID 
8. Ranitidine 300 mg PO QHS 
9. Sucralfate 1 gm PO BID 
10. Cyclobenzaprine 10 mg PO TID:PRN spasm 
11. TraMADol 50 mg PO QHS 
12. ValACYclovir 1000 mg PO Q12H 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
14. calcium carbonate-vitamin D3 600mg (1,000mg) -1,000 unit 
oral 1X/WEEK 
15. Docusate Sodium 100 mg PO BID 
16. Ferrous GLUCONATE 324 mg PO DAILY 
17. Loratadine 10 mg PO DAILY 
18. minoxidil 2 % topical DAILY 
19. Polyethylene Glycol 17 g PO DAILY 
20. Memantine 28 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  ClonazePAM 1 mg PO DAILY  
3.  Memantine 28 mg PO BID  
4.  ALPRAZolam 1 mg PO TID:PRN prior to MRI  
5.  calcium carbonate-vitamin D3 600mg (1,000mg) -1,000 unit 
oral 1X/WEEK  
6.  Docusate Sodium 100 mg PO BID  
7.  DULoxetine 60 mg PO DAILY  
8.  Ferrous GLUCONATE 324 mg PO DAILY  
9.  fluticasone 50 mcg/actuation nasal DAILY  
10.  Hydrocortisone Cream 2.5% 1 Appl TP DAILY  
11.  Lidocaine 5% Ointment 1 Appl TP BID  
12.  Loratadine 10 mg PO DAILY  
13.  minoxidil 2 % topical DAILY  
14.  Polyethylene Glycol 17 g PO DAILY  
15.  Pregabalin 100 mg PO TID  
16.  Ranitidine 300 mg PO QHS  
17.  Sucralfate 1 gm PO BID  
18.  ValACYclovir 1000 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
altered mental status

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted following an episode of altered consciousness 
associated with shaking which was concerning for a first time 
seizure. While you were admitted, you had a brain wave test 
(EEG) which was normal and image (MRI) which revealed a small 
area of abnormality in the brain, but it is unclear if this 
explains your symptoms. To look into your symptoms further, we 
did a lumbar puncture (spinal tap) for which preliminary studies 
were negative.  It will be important that you follow up in 
Neurology clinic at soonest available appointment to discuss the 
rest of your results.

It was a pleasure taking care of you.

Sincerely,
Your ___ care team 
 
Followup Instructions:
___